US07432288B2
3-Anilino-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione
To a solution of 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione (0.25 mmol, 75 mg) in DMF (0.5 mL) was added aniline (0.55 mmol, 51 mg). The mixture was heated in a microwave reactor at 150° C. for five min. After cooling, the reaction mixture was purified by HPLC (95% 0.1M ammonium acetate buffer: 5% CH3CN→100% CH3CN) to give 38 mg (43%) of the title compound. 1H NMR (400 MHz, CDCl3) δ 8.72 (bs, 1H), 8.54 (d, br, 1H), 7.79-7.75 (m, 1H), 7.47 (bs, 1H), 7.29-7.23 (m, 1H), 7.17-7.06 (m, 3H), 7.04-6.93 (m, 5H), 6.66-6.60 (m, 2H), 4.79 (s, 2H).

reactant | 3-chloro-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 0.25 mmol, 75 mg | ClC=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C16H11ClN2O2
reactant | aniline | 0.55 mmol, 51 mg | NC1=CC=CC=C1 | C6H7N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 3-Anilino-4-phenyl-1-(pyridin-3-ylmethyl)-1H-pyrrole-2,5-dione | 38 mg, 43% | N(C1=CC=CC=C1)C=1C(N(C(C1C1=CC=CC=C1)=O)CC=1C=NC=CC1)=O | C22H17N3O2
